US05532267
6-Amidino-2-naphthyl 5-carboxyacetylaminomethylfuran-2-carboxylate hydrochloride
To a mixture of 210 ml of DMF and 90 ml of pyridine were added 10 g of 6-amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrochloride, 13.6 g of malonic acid and 320 mg of DMAP, then 10.8 g of DCC was added to the mixture with stirring and ice-cooling, and the mixture was stirred for 24 hours. The precipitate was removed by filtration and the filtrate was added dropwise to 3 l of acetone. The precipitate was collected by filtration to obtain 6.5 g of the intended product as a white solid.

reactant | DMF | 210 ml | CN(C)C=O | C3H7NO
reactant | 6-amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrochloride | 10 g | Cl.Cl.NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N
reactant | malonic acid | 13.6 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | DCC | 10.8 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 320 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
product | 6-Amidino-2-naphthyl 5-carboxyacetylaminomethylfuran-2-carboxylate hydrochloride | 6.5 g | Cl.C(=O)(O)CC(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C20H17N3O6.ClH/c21-19(22)13-2-1-12-8-14(4-3-11(12)7-13)29-20(27)16-6-5-15(28-16)10-23-17(24)9-18(25)26;/h1-8H,9-10H2,(H3,21,22)(H,23,24)(H,25,26);1H
